### PR TITLE
Add some lemmas about the interpreter

### PR DESCRIPTION
**Pull request by math-fehr**
These are going to be useful later on for reasonning about the interpreter.

### CODE REVIEW

**Review by tobiasgrosser — APPROVED** [review]
Nice. Should this be a module?

**Comment by ineol** [comment]
> Nice. Should this be a module?

We need to modularize the dependencies first, and the interpreter isn't a module yet from what I can see

File: Veir/Interpreter/Lemmas.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+    | .opResult {op := op', index := index} =>
+      if op' = op ∧ index < idx then
+        some resultValues[index]!
+       else
+         state.getVar? value
+    | _ =>
+      state.getVar? value := by
+  fun_induction InterpreterState.setResultValues_loop
+  case case1 => grind
+  case case2 => grind [cases OpResultPtr, OperationPtr.getResult_def, cases ValuePtr]
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean]:
```suggestion
  fun_induction InterpreterState.setResultValues_loop
  next => grind
  next => grind [cases OpResultPtr, OperationPtr.getResult_def, cases ValuePtr]
```
sine the name of the cases are not super helpful?

File: Veir/Interpreter/Lemmas.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+    | .opResult {op := op', index := index} =>
+      if op' = op ∧ index < op.getNumResults! ctx then
+        some resultValues[index]!
+       else
+         state.getVar? value
+    | _ =>
+      state.getVar? value := by
+  simp [InterpreterState.setResultValues, InterpreterState.getVar?_setResultValues_loop]
+
+theorem InterpreterState.getVar?_setResultValues_of_value_inBounds
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean:42]: No grind annotation?

File: Veir/Interpreter/Lemmas.lean [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+               l.mapM state.getVar? = l.mapM state'.getVar? by grind
+  intro l hl
+  induction l <;> grind
+
+theorem InterpreterState.setResultValues_comm {ctx : WfIRContext OpInfo}
+    {state : InterpreterState} (hOp : op₁ ≠ op₂) :
+    (state.setResultValues ctx.raw op₁ resValues₁).setResultValues ctx.raw op₂ resValues₂ =
+    (state.setResultValues ctx.raw op₂ resValues₂).setResultValues ctx.raw op₁ resValues₁ := by
+  ext val runtimeVal
+  simp [getVar?_setResultValues]
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean]: non terminal simp

File: Veir/Interpreter/Lemmas.lean [hunk 4]
```diff
@@ -0,0 +1,80 @@
...
+  cases val <;> grind
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean:81]:
```suggestion
  ext val runtimeVal
  cases val <;> grind [getVar?_setResultValues]
```

File: Veir/Interpreter/Lemmas.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+  interpretOp ctx op state = some (state', cf) ↔
+  ∃ operandValues resValues,
+    (state.getOperandValues ctx op) = some operandValues ∧
+    interpretOp' (op.getOpType! ctx) (op.getProperties! ctx (op.getOpType! ctx))
+      ((op.get! ctx).results.map (·.type)) operandValues = some (resValues, cf) ∧
+    state' = state.setResultValues ctx op resValues := by
+  simp only [interpretOp, bind, Option.bind]
+  grind
+
+theorem InterpreterState.getOperandValues_ext {ctx : IRContext OpInfo} :
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean]: I'm not convinced by calling it `_ext` since one expects equality of some objects?

**Review by ineol — APPROVED** [review]

File: Veir/Interpreter/Lemmas.lean (hunk 5 above)
Comment (math-fehr) [reply Veir/Interpreter/Lemmas.lean]: What about this? (InterpreterState.getOperandValues_eq_of_getVar?_eq)

Comment (ineol) [reply Veir/Interpreter/Lemmas.lean]: Perfect!
